data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-c1ccc(OC)cc1_2-C(C)(C)C_3-C1CCCCC1_4-c1ccc(C)c(C)c1","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc(OC)cc1)(C(C)(C)C)","C(C1CCCCC1)(c1ccc(C)c(C)c1)O"],"products_smiles": ["OC(c1ccc(OC)cc1)(C(C)(C)C).C(C1CCCCC1)(=O)c1ccc(C)c(C)c1"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C1CCCCC1)(c1ccc(C)c(C)c1)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(c1ccc(C)c(C)c1)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C1CCCCC1)(c1ccc(C)c(C)c1)[O][Al-](OC(C)C)([O+]=C(c1ccc(OC)cc1)(C(C)(C)C))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc(OC)cc1)(C(C)(C)C).C(C1CCCCC1)(=O)c1ccc(C)c(C)c1","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-135_1-c1nccs1_2-CC_3-C(=O)OC_4-C1CCCCC1","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1nccs1)(CC)=C(C(=O)OC)C(=O)(C1CCCCC1)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1nccs1)(CC)=C(C(=O)OC)C(O)(C1CCCCC1)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1nccs1)(CC)=C(C(=O)OC)C(=[O+][Ce-](Cl)(Cl)Cl)(C1CCCCC1)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1nccs1)(CC)=C(C(=O)OC)C(O[Ce-](Cl)(Cl)Cl)(C1CCCCC1)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1nccs1)(CC)=C(C(=O)OC)C(O)(C1CCCCC1)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
